US06869954B2
Preparation of 2-cyclopropylmethyl-4-(3-dimethylaminopropyl)-6-(3-fluoro-4-methoxyphenyl)-2H-pyridazin-3-one
Following the procedure of Example 7, 2-cyclopropylmethyl-6-(3-fluoro-4-methoxyphenyl)-4-(3-methanesulfonyloxypropyl)-2H-pyridazin-3-one and dimethylamine were reacted to yield the title compound as a yellow powder (yield: 64.7%).

reactant | 2-cyclopropylmethyl-6-(3-fluoro-4-methoxyphenyl)-4-(3-methanesulfonyloxypropyl)-2H-pyridazin-3-one | C1(CC1)CN1N=C(C=C(C1=O)CCCOS(=O)(=O)C)C1=CC(=C(C=C1)OC)F | C19H23FN2O5S
reactant | dimethylamine | CNC | C2H7N
product | 2-cyclopropylmethyl-4-(3-dimethylaminopropyl)-6-(3-fluoro-4-methoxyphenyl)-2H-pyridazin-3-one | yield: 64.7% | C1(CC1)CN1N=C(C=C(C1=O)CCCN(C)C)C1=CC(=C(C=C1)OC)F | C20H26FN3O2
